US07723336B2
To 60% NaH (22.5 mg, 0.563 mmol) in DMF (400 μl) was added 2,6-difluoroaniline (24 mg, 0.186 mmol). After stirring at RT for 5 minutes THF (1000 μl) was added followed by 8-bromo-6-chloroimidazo[1,2-b]pyridazine (50 mg, 0.186 mmol, prepared as described in Example 1, step (1b). The reaction was heated at 50° C. for 3 hours. The reaction was quenched with a few drops of water and methanol. The solution was then concentrated in vacuo to give crude 6-chloro-N-(2,6-difluorophenyl)imidazo[1,2-b]pyridazin-8-amine.

reactant | NaH | 0.563 mmol, 22.5 mg | [H-].[Na+]
reactant | 2,6-difluoroaniline | 0.186 mmol, 24 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | THF | 1000 μl | C1CCOC1 | C4H8O
reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
solvent | DMF | 400 μl | CN(C)C=O | C3H7NO
product | 6-chloro-N-(2,6-difluorophenyl)imidazo[1,2-b]pyridazin-8-amine | ClC=1C=C(C=2N(N1)C=CN2)NC2=C(C=CC=C2F)F | C12H7ClF2N4
